US05356885
(S)-1-(4-Bromo-2-butynyl)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-2-pyrrolidinone
A solution of 2.4 g of (S)-1-[4-diethylamino-2-butynyl]-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-2-pyrrolidinone and 0.8 g of cyanogen bromide in 40 ml of diethyl ether is stirred at room temperature for 18 hours. The solution is washed with 30 ml of 1N hydrochloric acid and saturated sodium bicarbonate, dried and concentrated in vacuo. The residue is purified by chromatography (silica gel, methylene chloride) to give 2.0 g of the desired product as a colorless oil. [α]D26° =-31° (methylene chloride).

reactant | (S)-1-[4-diethylamino-2-butynyl]-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-2-pyrrolidinone | 2.4 g | C(C)N(CC#CCN1C([C@H](CC1)O[Si](C)(C)C(C)(C)C)=O)CC | C18H34N2O2Si
reactant | cyanogen bromide | 0.8 g | N#CBr | CBrN
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | (S)-1-(4-Bromo-2-butynyl)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-2-pyrrolidinone | 2.0 g | BrCC#CCN1C([C@H](CC1)O[Si](C)(C)C(C)(C)C)=O | C14H24BrNO2Si
